US04080454
To a solution of sodium ethoxide prepared from 25 g (1.1 mol) sodium metal in 800 ml ethanol was added 108 g (1.0 mol) m-cresol. After warming at reflux for 1.5 hr, 167 g (1.0 mol) ethyl bromoacetate was added dropwise as reflux continued. After 5.5 hr reflux, the reaction mixture was cooled and NaBr removed by filtration. The filtrate was concentrated to 200 ml volume and extracted with 3 × 300 ml ether. The combined ether layers were washed with pH 10.5 NaOH solution, saturated NaCl solution and were dried over anhydrous MgSO4. The ether was removed under reduced pressure and the residual yellow oil distilled at 105°/1 mm Hg to give 115.3 g m-tolyloxyethyl acetate.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.1 mol, 25 g | [Na] | Na
reactant | m-cresol | 1.0 mol, 108 g | C1=C(C=CC=C1O)C | C7H8O
reactant | ethyl bromoacetate | 1.0 mol, 167 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | m-tolyloxyethyl acetate | 115.3 g | C(C)(=O)OCCOC=1C=C(C=CC1)C | C11H14O3
